US07470679B2
(S)-4-bromo-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-6,7-dihydro-3H-oxepino[3,4-e]indazol-8(10H)-one
(S)-2-(4-Bromo-8-oxo-6,7,8,10-tetrahydro-3H-oxepino[3,4-e]indazol-7-yl)acetic acid (90 mg, 0.265 mmol) was dissolved in N,N-dimethylformamide (2.5 mL). N,N-Diisopropylethylamine (150 μl, 0.861 mmol) was added to the mixture followed by TBTU (94.5 mg, 0.294 mmol). 3-(Piperidin-4-yl)quinolin-2(1H)-one hydrochloride (90.3 mg, 0.341 mmol) was added to the reaction mixture. Reaction stirred at room temperature for 3 hours. Reaction was quenched with water. Material was extracted twice with ethyl acetate. Organic phase was filtered. Filtrate was concentrated by roto-vap. Residue was purified by prep HPLC (acetonitrile-water-trifluoroacetic acid). Acetonitrile was removed from the fractions by roto-vap. Remaining aqueous was made basic with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 19% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.98 (s, 1H) 12.21 (s, 1H) 8.86 (s, 1H) 8.13 (d, J=3.36 Hz, 1H) 8.05 (t, J=6.87 Hz, 1H) 7.81-7.93 (m, 2H) 7.70 (d, J=8.24 Hz, 1H) 7.57 (t, J=7.63 Hz, 1H) 6.38 (d, J=14.65 Hz, 1H) 6.00 (d, J=14.95 Hz, 1H) 4.98 (d, J=13.12 Hz, 1H) 4.48-4.56 (m, 2H) 3.67-3.74 (m, 1H) 3.54-3.67 (m, 1H) 3.30-3.53 (m, 3H) 3.04-3.16 (m, 1H) 2.95-3.04 (m, 1H) 2.36 (t, J=11.14 Hz, 1H) 2.28 (t, J=9.46 Hz, 1H) 1.91-2.04 (m, 1H) 1.77-1.90 (m, 1H). High resolution M/E (M+H)+=549.1132.

reactant | (S)-2-(4-Bromo-8-oxo-6,7,8,10-tetrahydro-3H-oxepino[3,4-e]indazol-7-yl)acetic acid | 0.265 mmol, 90 mg | BrC1=CC2=C(C=3C=NNC13)COC([C@@H](C2)CC(=O)O)=O | C13H11BrN2O4
reactant | N,N-Diisopropylethylamine | 0.861 mmol, 150 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.294 mmol, 94.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(Piperidin-4-yl)quinolin-2(1H)-one hydrochloride | 0.341 mmol, 90.3 mg | Cl.N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | (S)-4-bromo-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-6,7-dihydro-3H-oxepino[3,4-e]indazol-8(10H)-one | 19% yield | BrC1=CC2=C(C=3C=NNC13)COC([C@@H](C2)CC(N2CCC(CC2)C=2C(NC1=CC=CC=C1C2)=O)=O)=O | C27H25BrN4O4
